US06313312B1
N-{3-[3-Hexyl-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methane sulfonamide
3-[3-Hexyl-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hex-6-yl aniline (Preparation 101, 143 mg, 0.42 mmol) was dissolved in anhydrous dichloromethane (3 ml) in a dry, nitrogen-flushed flask and cooled to −12° C. in an ice/methanol bath. Pyridine (54 μl, 0.67 mmol) was added dropwise followed by methanesulfonyl chloride (39 μl, 0.50 mmol). The mixture was allowed to slowly warm to room temperature, whereupon its colour changed from yellow to bright amber. After 3 h, the mixture was treated with water (20 ml) and extracted with dichloromethane (3×20 ml). The combined organic extracts were washed with brine (20 ml), dried (MgSO4), filtered and the solvent removed in vacuo. The crude product was purified by chromatography on silica gel (5 g), eluting with hexane ether (2:1) to give the product as an amber gum (71 mg, 40%).

reactant | 3-Hexyl-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hex-6-yl aniline | 0.42 mmol, 143 mg | C(CCCCC)N1CC2C(C2C1)(CC(F)(F)F)NC1=CC=CC=C1 | C19H27F3N2
reactant | Pyridine | 0.67 mmol, 54 μl | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 0.50 mmol, 39 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 20 ml | O | H2O
reactant | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | N-{3-[3-Hexyl-6-(2,2,2-trifluoroethyl)-3-azabicyclo[3.1.0]hex-6-yl]phenyl}methane sulfonamide | 71 mg, 40% | C(CCCCC)N1CC2C(C2C1)(CC(F)(F)F)C=1C=C(C=CC1)NS(=O)(=O)C | C20H29F3N2O2S
